US07786171B2
Methyl 2-(4-(methylamino)phenyl)acetate (721 mg. 4.0 mmol) was dissolved in tetrahydrofuran (10 mL) and treated with a 1 M aqueous solution of lithium hydroxide (4.4 mmol). After 3 hours, the mixture was acidified with 1 N aqueous hydrochloric acid and concentrated to remove tetrahydrofuran. The aqueous phase was extracted with dichloromethane (2×20 mL) and the organic layer was dried and concentrated to give 2-(4-(methylamino)phenyl)acetic acid (309 mg, 1.87 mmol).

reactant | Methyl 2-(4-(methylamino)phenyl)acetate | 4.0 mmol, 721 mg | CNC1=CC=C(C=C1)CC(=O)OC | C10H13NO2
reactant | lithium hydroxide | 4.4 mmol | [OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(4-(methylamino)phenyl)acetic acid | 1.87 mmol, 309 mg | CNC1=CC=C(C=C1)CC(=O)O | C9H11NO2
